US07524969B2
To 1.6 M vinylmagnesium chloride in THF (200 mL, 0.32 mol) at −78° C. was added hexafluoroacetone (50 g, 0.31 mol) by cannula over a period of 3 h with stirring. The reaction mixture was allowed to warm to r.t. and stirred for an additional 2 h, then heated to 40° C. for an additional 1 h. The reaction mixture was quenched with aqueous NH4Cl solution. The mixture was diluted with pentane, filtered, and the organic phase was dried over MgSO4. Fractional distillation (12 inch Vigreux column) at 100-103° C. afforded the product 1,1,1-trifluoro-2-trifluoromethyl-but-3-en-2-ol (mixture containing around 66 mol % THF) as a clear liquid (50 g). 1H NMR δ 5.20 (br, 1H), 5.70 (d, 1H), 5.92 (m, 2H).

reactant | vinylmagnesium chloride | 1.6 M | C(=C)[Mg]Cl
reactant | THF | 0.32 mol, 200 mL | C1CCOC1 | C4H8O
reactant | hexafluoroacetone | 0.31 mol, 50 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
product | 1,1,1-trifluoro-2-trifluoromethyl-but-3-en-2-ol | 50 g | FC(C(C=C)(O)C(F)(F)F)(F)F | C5H4F6O
